US07572801B2
In analogy to the procedure described in example 78.4, 2,5-dichloro-N-{1-imino-2-[2-(3-trifluoromethoxy-phenyl)-ethoxy]-ethyl}-nicotinamide was treated with KOtBu to obtain 6-chloro-2-[2-(3-trifluoromethoxy-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one as colorless crystals. MS: m/e=400.1 [M+H+].

reactant | 2,5-dichloro-N-{1-imino-2-[2-(3-trifluoromethoxy-phenyl)-ethoxy]-ethyl}-nicotinamide | ClC1=C(C(=O)NC(COCCC2=CC(=CC=C2)OC(F)(F)F)=N)C=C(C=N1)Cl | C17H14Cl2F3N3O3
reactant | KOtBu | CC(C)(C)[O-].[K+]
product | 6-chloro-2-[2-(3-trifluoromethoxy-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one | ClC1=CC2=C(N=C(NC2=O)COCCC2=CC(=CC=C2)OC(F)(F)F)N=C1 | C17H13ClF3N3O3
